* Z:\home\aalmela\scm\git\utn\eaiii\2020\7_Mezcladores\ltspice\jfet_modelo.asc
L2 s N005 289e-9
C2 s N005 723e-12
CA2 s N004 10n
VOL N003 0 SINE(0 1 11e6)
rrf P001 N002 1e3
CA1 g P001 10n
C1 g 0 795e-12
L1 g 0 318.3e-9
ci g s 3p
B1 d s I=12e-3*pow( (1- (V(g)-V(s)) /(-3) ),2)
L3 N001 d 398e-6
ro d s 250k
C3 N001 d 63e-12
RL N001 d 250k
VRF N002 0 SINE(0 10e-3 10e6) AC 10u
Rs N005 0 470
CA3 N005 0 10n
rol N004 N003 1k
VDD N001 0 12
.tran 0 1100u 1000u
.backanno
.end
